US08022062B2
N-[4-(3,3-Dimethyl-2-oxo-butoxy)-benzyl]-2,2,2-trifluoroacetamide:
Mix 2,2,2-trifluoro-N-(4-hydroxy-benzyl)-acetamide (438 mg, 2.0 mmol), 1-bromopinacolone (430 mg, 2.4 mmol), anhydrous potassium carbonate (829 mg, 6.0 mmol) and potassium iodide (33 mg, 0.1 mmol) with acetone. Heat under reflux for 12 h. Acidify with 1N aqueous HCl and extract with EtOAc three times. Combine the organic extracts, wash with brine, dry over Na2SO4, filter and concentrate. Purify by chromatography on silica gel eluting with EtOAc/hexane (1:3) to give the desired intermediate as a colorless oil. MS (ES+) m/z: 335 (M+NH4)+. MS (ES−) m/z: 316 (M−H)−.

reactant | 2,2,2-trifluoro-N-(4-hydroxy-benzyl)-acetamide | 2.0 mmol, 438 mg | FC(C(=O)NCC1=CC=C(C=C1)O)(F)F | C9H8F3NO2
reactant | 1-bromopinacolone | 2.4 mmol, 430 mg | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | potassium carbonate | 6.0 mmol, 829 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 mmol, 33 mg | [I-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | N-[4-(3,3-Dimethyl-2-oxo-butoxy)-benzyl]-2,2,2-trifluoroacetamide | CC(C(COC1=CC=C(CNC(C(F)(F)F)=O)C=C1)=O)(C)C | C15H18F3NO3
